US06498165B1
Step C: 2-Ethylthio-4-[benzimidazol-1-yl]-6-propylpyrimidine
To a suspension of NaH (76 mg) in DMF (2 mL) was added benzimidazole, and this was followed by addition of 2-ethylthio4-chloro-6-propylpyrimidine dissolved in DMF (3 mL). The reaction mixture was then placed in a 100° C. oil bath. After 1 h, the reaction was cooled to room temperature, quenched with 5 mL of water and extracted with ethyl acetate. The organic layer was washed with saturated NaCl and dried (anhydrous Na2SO4). Removal of solvent followed by purification on silica gel column (9% acetone/hexane) provided 390 mg of the title compound. Mass spectrum (CI) 298 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.69 (s, 1H); 8.17 (d, J=7.6 Hz, 1H); 7.88 (d, J=7.8 Hz, 1H); 7.42 (m, 2H); 7.05 (s, 1H); 3.27 (q, J=7.4 Hz, 2H); 2.78 (t, J=7.5 Hz, 2H); 1.85 (m, 2H); 1.49 (t, J=7.3 Hz, 3H); 1.05 (t, J=7.3 Hz, 3H).

reactant | NaH | 76 mg | [H-].[Na+]
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 2-ethylthio4-chloro-6-propylpyrimidine | C(C)SC1=NC(=CC(=N1)Cl)CCC | C9H13ClN2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-Ethylthio-4-[benzimidazol-1-yl]-6-propylpyrimidine | 390 mg | C(C)SC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)CCC | C16H18N4S
